US07368578B2
To a solution of diethyl [(2-tert-butyl-1,3-oxazol-4-yl)methyl]phosphonate (2.32 g) in tetrahydrofuran (30 mL) was added sodium hydride (60% in oil, 0.48 g) at room temperature, and the mixture was stirred for 30 min. 3-(Methoxymethoxy)-1-phenyl-1H-pyrazole-4-carbaldehyde (3.30 g) was added to the reaction mixture, and the mixture was heated under reflux for 1.5 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:20-1:3, v/v) to give 2-tert-butyl-4-{(Z)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-1,3-oxazole as a pale-yellow oil (0.02 g, yield 0.6%).

reactant | diethyl [(2-tert-butyl-1,3-oxazol-4-yl)methyl]phosphonate | 2.32 g | C(C)(C)(C)C=1OC=C(N1)CP(OCC)(OCC)=O | C12H22NO4P
reactant | sodium hydride | 0.48 g | [H-].[Na+]
reactant | 3-(Methoxymethoxy)-1-phenyl-1H-pyrazole-4-carbaldehyde | 3.30 g | COCOC1=NN(C=C1C=O)C1=CC=CC=C1 | C12H12N2O3
reactant | Water | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-tert-butyl-4-{(Z)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-1,3-oxazole | 0.02 g, yield 0.6% | C(C)(C)(C)C=1OC=C(N1)\C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCOC | C20H23N3O3
